US09193693B2
Step 2. 3-(Cyclohexylamino)-2-phenylquinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(cyclohexylamino)-2-phenylquinoxaline-6-carboxylate (80 mg, 0.22 mmol, 1.00 equiv) in methanol (15 mL), a solution of sodium hydroxide (44.32 mg, 1.11 mmol, 5.00 equiv) in water (2 mL). The resulting solution was stirred for 2 hrs at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum. The residue was diluted in 20 mL of water. The pH value of the solution was adjusted to 4-5 with aq hydrogen chloride (1 mol/L). The resulting solids were collected by filtration. This resulted in 60 mg (76%) of 3-(cyclohexylamino)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(cyclohexylamino)-2-phenylquinoxaline-6-carboxylate | 0.22 mmol, 80 mg, 1.00 equiv | C1(CCCCC1)NC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C22H23N3O2
reactant | sodium hydroxide | 1.11 mmol, 44.32 mg, 5.00 equiv | [OH-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 3-(Cyclohexylamino)-2-phenylquinoxaline-6-carboxylic acid | C1(CCCCC1)NC=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C21H21N3O2
